US04927908
The hydroxy-containing primary amino compound and the spirodilactam precursor are typically contacted in a molar ratio of about 2:1 in the presence of an inert reaction diluent capable of dissolving at least a portion of each reactant at reaction temperature. A preferred class of reaction diluents comprises N-alkylamides such as N,N-dimethylacetamide or N-methyl-2-pyrrolidone. Reaction conditions include a reaction temperature from about 80° C. to about 200° C. and a reaction pressure sufficient to maintain the reaction mixture in the liquid phase. Such pressures are from about 0.8 atmosphere to about 20 atmospheres. Subsequent to reaction, the hydroxyaryl-substituted spirodilactam is recovered, if desired, by conventional methods such as extraction, solvent removal and precipitation. The isolation of the hydroxyaryl-substituted spirodilactam is not required, however, and the spirodilactam is further reacted in situ to form the cyanato derivative without isolation. By way of specific illustration, p-aminophenol reacts with either 4-oxoheptanedioic acid or 1,6-dioxaspiro[4.4]nonane-2,7-dione to produce 1,6-di(4-hydroxyphenyl)-1,6-diasaspiro[4.4]nonane-2,7-dione and 4-amino-4'-hydroxybiphenyl reacts with either di(2-carboxyphenyl)ketone or 3,4,8,9-dibenzo-1,6-dioxaspiro[4.4]nonane-2,7-dione to produce 1,6-di[4-(4'-hydroxybiphenyl)]-3,4,8,9-dibenzo-1,6diasaspiro[4.4]nonane-2,7-dione.

reactant | p-aminophenol | C1=CC(=CC=C1N)O | C6H7NO
reactant | 4-oxoheptanedioic acid | O=C(CCC(=O)O)CCC(=O)O | C7H10O5
reactant | 1,6-dioxaspiro[4.4]nonane-2,7-dione | O1C(CCC12OC(CC2)=O)=O | C7H8O4
product | 4-amino-4'-hydroxybiphenyl | NC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H11NO
